US08293909B2
To a solution containing 3-(3-nitropyridin-4-yl)-N-(2-phenylpropan-2-yl)benzamide (2.0 g, 5.5 mmol) and methanol (18.5 mL) was added 10% Pd/C (1.6 g, 0.76 mmol, wet, 50% water) in one portion under a nitrogen atmosphere. The reaction mixture was stirred for 2 h under an atmosphere of hydrogen gas (balloon), filtered and concentrated to afford 3-(3-aminopyridin-4-yl)-N-(2-phenylpropan-2-yl)benzamide as a pale yellow oil which was used without further purification. 1H NMR (400 MHz, DMSO-D6) δ ppm 8.47 (s, 1H), 8.11 (s, 1H), 7.93 (s, 1H), 7.85 (d, J=4.77 Hz, 1H), 7.81 (ddd, J=7.65, 1.63, 1.51 Hz, 1H), 7.52-7.61 (m, 2H), 7.36-7.41 (m, 2H), 7.24-7.30 (m, 2H), 7.15 (t, J=7.28 Hz, 1H), 7.04 (d, J=5.02 Hz, 1H), 5.15 (s, 2H), 1.64-1.70 (m, 6H). LCMS: retention time: 1.240 min. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters-Sunfire, 5 u, C18, 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% CH3CN/90% H2O/10 mM TFA and solvent B was 10% H2O/90% CH3CN/10 mM TFA. MS data was determined using a Micromass Platform for LC in electrospray mode. m/z 332 (MH+).

reactant | 3-(3-nitropyridin-4-yl)-N-(2-phenylpropan-2-yl)benzamide | 5.5 mmol, 2.0 g | [N+](=O)([O-])C=1C=NC=CC1C=1C=C(C(=O)NC(C)(C)C2=CC=CC=C2)C=CC1 | C21H19N3O3
catalyst | Pd/C | 0.76 mmol, 1.6 g | [Pd] | Pd
solvent | methanol | 18.5 mL | CO | CH4O
product | 3-(3-aminopyridin-4-yl)-N-(2-phenylpropan-2-yl)benzamide | NC=1C=NC=CC1C=1C=C(C(=O)NC(C)(C)C2=CC=CC=C2)C=CC1 | C21H21N3O
